US07888352B2
5-(6-((4-(N-methyl,N-methylsulfonylamino)piperidin-1-yl)methyl)-4-morpholinothieno[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine 294
A suspension of N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-N-methyl-methanesulfonamide (137 mg, 0.3 mmol), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-ylamine (76 mg, 0.36 mmol), 1M Na2CO3 (1 ml, 1 mmol) and Pd(PPh3)2Cl2 (21 mg, 0.03 mmol) in acetonitrile was heated in a microwave at 140° C. for 25 mins. The reaction was then acidified with 2N HCl (aq) extracted with ethyl acetate, the water layer separated and basified with K2CO3 (sat. aq) resulting in 294 as a white precipitate which was filtered and dried (128 mg, 83%). NMR (DMSO, 400 MHz), 1.55-1.63 (2H, m), 1.68-1.79 (2H, m), 2.11-2.18 (2H, m), 2.70 (3H, s), 2.89 (3H, s), 2.94-2.98 (2H, m), 3.53-3.61 (1H, m), 3.79 (4H, t, J=5.2), 3.84 (2H, s), 3.95 (4H, t, J=4.4), 7.04 (2H, s), 7.32 (1H, s), 9.11 (2H, s). MS: (ESI+): MH+=519

reactant | N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-N-methyl-methanesulfonamide | 0.3 mmol, 137 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)N(S(=O)(=O)C)C)N2CCOCC2 | C18H26ClN5O3S2
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-ylamine | 0.36 mmol, 76 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | Na2CO3 | 1 mmol, 1M, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.03 mmol, 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(6-((4-(N-methyl,N-methylsulfonylamino)piperidin-1-yl)methyl)-4-morpholinothieno[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine | CN(S(=O)(=O)C)C1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=NC(=NC1)N | C22H30N8O3S2
